Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Pain 
 
Major Surgical or Invasive Procedure:
Coronary Angiography 

 
History of Present Illness:
___ year old functional woman with a history of HTN, HLD, breast
cancer s/p excision and radiation presented from PCP office to 
___ with c/o chest pain. On ___ her chest pain began at
about 10pm and was localized to the lower sternal area and not
radiating. It was moderate in severity with no obvious
precipitants(lasted for 8 hours) and was accompanied by dyspnea
on exertion, fatigue and dizziness. She went to a PCP 
___
___ where she mentioned the chest pain on ___ and the PCP
told her to go into the ED. She had been chest pain free since
that episode. At ___, she had some ST elevations anteriorly
and troponin was 14.6. She was given aspirin, heparin, and
Nitropaste and sent to ___ for further evaluation. She remains
chest pain free, in mild volume overload, hemodynamically and
rhythm wise stable. Patient currently denies any history of MI 
or
heart problems. 
 
In the ED initial vitals were:  
-temp:98.6 HR:80 BP:149/72 RR:18 100% RA 
 
EKG: subtle STE in V1-V3 with ST coving, but does not meet
criteria from STEMI(? late presentation) with no indication of
emergent coronary catheterization.  
 
Labs/studies notable for:
-Trop-T: 3.96 
-Cr 0.7
-K 4.4
-Mg 2.0
-___: 12.9  PTT: 110.2  INR: 1.2
-WBC 7.8    
 
Patient was given:  
-IV Furosemide 20 mg 
-Clopidogrel 300 mg
-IV heparin gtt

Vitals on transfer: 
98.0F  146 / 82 HR 80 RR20 95% RA  

On the floor the patient denies any active chest pain,
palpitations or dyspnea. She feels well and is resting
comfortably.    
 
 
REVIEW OF SYSTEMS:  
Positive per HPI.  
 
Cardiac review of systems is notable for absence of paroxysmal
nocturnal dyspnea, orthopnea, ankle edema.  
 
Past Medical History:
PAST MEDICAL HISTORY:  
=======================
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  

2. CARDIAC HISTORY  
- no CAD  
- NO ECHO  
- Holter done ?(years ago) and per patient was unrevealing  

3. OTHER PAST MEDICAL HISTORY  
Insomnia 
Butterfly rash 
Osteopenia 
Awareness of heartbeats 
Sciatica of left side 
Syncope 
Unspecified vitamin D deficiency 
History of breast cancer s/p excision and radiation 
 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death. 
 
Physical Exam:
VS: 98.0F  146 / 82 HR 80 RR20 95% RA   

GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP of 9 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. ___ SEM at LUSB, 
no
rubs, or gallops.   
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE EXAM:

 
Pertinent Results:
Admission:

___ 03:38PM BLOOD WBC-7.8 RBC-4.02 Hgb-12.3 Hct-37.1 MCV-92 
MCH-30.6 MCHC-33.2 RDW-13.7 RDWSD-46.7* Plt ___
___ 03:38PM BLOOD Neuts-57.2 ___ Monos-11.2 Eos-1.2 
Baso-0.4 Im ___ AbsNeut-4.47 AbsLymp-2.31 AbsMono-0.87* 
AbsEos-0.09 AbsBaso-0.03
___ 03:38PM BLOOD ___ PTT-110.2* ___
___ 03:38PM BLOOD Plt ___
___ 03:38PM BLOOD Glucose-107* UreaN-15 Creat-0.7 Na-145 
K-4.4 Cl-107 HCO3-26 AnGap-12
___ 03:38PM BLOOD CK-MB-7 proBNP-1529*
___ 03:38PM BLOOD cTropnT-3.96*
___ 09:40PM BLOOD CK-MB-7 cTropnT-4.26*
___ 03:38PM BLOOD Calcium-9.5 Phos-3.1 Mg-2.0

DISCHARGE:

___ 06:08AM BLOOD WBC-6.8 RBC-3.74* Hgb-11.3 Hct-34.7 
MCV-93 MCH-30.2 MCHC-32.6 RDW-13.5 RDWSD-45.9 Plt ___
___ 06:08AM BLOOD Plt ___
___ 06:08AM BLOOD Glucose-100 UreaN-12 Creat-0.7 Na-146 
K-4.2 Cl-107 HCO3-26 AnGap-13
___ 01:10AM BLOOD CK(CPK)-<7*
___ 01:10AM BLOOD CK-MB-6 cTropnT-0.06*

TTE ___
The left atrium is mildly dilated. There is no evidence for an 
atrial septal defect by 2D/color Doppler.
The estimated right atrial pressure is ___ mmHg. There is normal 
left ventricular wall thickness with a
normal cavity size. There is mild regional left ventricular 
systolic dysfunction with distal ___ of the LV
exhibiting akinesis/dyskinesis as well as mid anteroseptal, 
anterolateral, anterior hypokinesis. (see
schematic). Moreover, myocardial strain is reduced in the basal 
septal myocardial walls due to
significant LV hypertrophy in the elderly. There is no LVOT 
gradient or ___. The visually estimated
left ventricular ejection fraction is 40-45%. Left ventricular 
cardiac index is normal (>2.5 L/min/m2).
Global longitudinal strain is depressed (-10.1 %; normal less 
than -20%) Diastolic function could not be
assessed. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for
gender. The aortic arch diameter is normal. The aortic valve 
leaflets (3) are mildly thickened. There is no
aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets are mildly thickened with
no mitral valve prolapse. There is moderate mitral annular 
calcification. There is mild [1+] mitral
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is trivial tricuspid
regurgitation. The estimated pulmonary artery systolic pressure 
is normal.
IMPRESSION: Mild (by LVEF largely determined by radial 
contractile function) focal LV systolic
dysfunction c/w prior myocardial infarction in mid LAD 
territory. Moderate reduction in global LV
systolic strain suggesting diffuse cardiomyopathic process in 
addition to regional wall motion
abnormalities.

CATH REPORT: ___
Impressions:
1. Severe single vessel CAD.
2. Successful ___.

 
Brief Hospital Course:
___ year old functional woman with a history of HTN, HLD, breast 
cancer s/p excision and radiation presented from PCP office to 
___ with c/o ischemic chest pain and found to have 
elevated troponin, and ecg changes consistent with missed STEMI 
with recurrent chest pain, now s/p DES to LAD. 

===============
ACTIVE ISSUES: 
===============
#Missed STEMI
#CAD
#Apical hypo/akenesis
Patient experienced lower substernal chest pain radiating to the 
left chest without precipitants while in bed on ___ that was 
accompanied by dizziness and lasted about 8 hours and 
subsequently resolved. ECG demonstrated ST elevation in 
precordial leads and markedly elevated troponin. Given lack of 
ongoing chest pain and relatively distant chest pain history (5 
days prior to presentation), decision was made to manage her 
medically with a Lasix drip, ASA, Plavix, metop, ace. During her 
stay, ___, she began developing chest pain that ___ substernal 
chest pressure without radiation. She was started on a nitro 
drip which was uptitrated. She was taken to the cath lab on ___ 
___ were a DES was placed in the proximal LAD. She remained 
chest pain free after the event. Echo demonstrated hypokinesis 
in the apex and the patient for which she was started on 
warfarin with a goal INR of ___. She was continued on medical 
management ASA, Plavix, metop, ace. 

#Pre-syncope 
Patient has a history of dizziness and lightheadedness that is 
associated with palpitations (last episode on ___. Since 
her chest pain on ___, she reports several episodes of flushing 
and pre-syncope with global weakness and occasional 
palpitations. Given her recent ischemic event, there is a high 
degree of suspicion that these are of a cardiac etiology either 
(arrythmogenic or ectopic). She was monitored on telemetry 
during her stay and noted to have ___ second runs of SVT that 
resolved without intervention. There is some concern for 
multifactorial etiology given that the patient was noted to be 
unsteady upon standing with ___ and had positive orthostatic 
vital signs which improved with oral rehydration. Her dose of 
beta blocker was reduced significantly prior to discharge and 
her pre-syncope symptoms did not recur.

#Dyspnea of exertion:
#Acute systolic heart failure 
Longstanding dyspnea with exertion increased in the past week. 
No orthopnea or PND. No signs of volume overload on floor exam 
after receiving 20 torsemide in the ED. Echo with EF of 40-45% 
currently without signs of volume overload on exam. This is 
likely ischemic in nature given recent MI. The patient did not 
demonstrate any signs of volume overload, no dieresis necessary 
as the patient remained euvolemic during her stay. 

#Right arm swelling:
Right radial access with piv in right arm. Some edema without 
tenseness, erythema or pitting. Radial pulse intact without 
thrill. Some ecchymosis in right hand. Will continue to monitor. 
Some concern for DVT/SVT in veins of right arm. Swelling is 
stable. 

================
CHRONIC ISSUES:
================
#Vitamin D deficiency: 
-home vitamin D3 1000units 

TRANSITIONAL ISSUES
==================
[] Follow up warfarin dosing in clinic, target INR ___, next 
dose to be drawn on ___.
[] Outpatient echo for follow up of decreased EF and dyskenetic 
myocardium. 
[] Monitor right forearm swelling.

Medication Additions:
-Clopidogrel 75 mg PO/NG DAILY 
-Atorvastatin 80 mg PO/NG QPM
-Metoprolol Tartrate 12.5 mg PO/NG BID 
-Warfarin 3 mg PO/NG DAILY 

Cr: 0.7
Weight: 66kg 145lbs
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 2.5 mg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*0 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*0 
3.  Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*180 Tablet Refills:*0 
4.  Warfarin 3 mg PO DAILY16 
RX *warfarin 3 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
5.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
6.  Lisinopril 2.5 mg PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  
8.Outpatient Lab Work
ICD-9: Cardiac Apical Akinesis 429.89. INR on ___. Please fax 
results to ___. MD 

9.Outpatient Lab Work
ICD-9: Cardiac Apical Akinesis 429.89. INR on ___. Please fax 
results to: 
___ MD ___
___. ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
==================
STEMI

Secondary Diagnosis
====================
Acute systolic heart failure
Dyspnea of exertion
Pre-syncope

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Ms. ___, 

You were sent to ___ because you were having chest pain 
concerning for a heart attack.  

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL: 
- You were found to have a heart attack with some heart muscle 
damage
- You were given medications to help thin your blood 
- You underwent a procedure to open up a blocked vessel 
supplying blood to your heart 
- You were started on medications to prevent the vessel from 
becoming blocked 
- You improved considerably and were ready to leave the hospital 


WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL: 
- Please follow up with your primary care doctor and other 
health care providers (see below) 
- Please take all of your medications as prescribed (see below). 

- Seek medical attention if you have shortness of breath, chest 
pain, abdominal pain, weight gain, leg swelling, or other 
symptoms of concern.
- Weight yourself daily and call your PCP if your weight is 
greater than 3lb from discharge weight of 145 pounds. 

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___